US05017573
Preparation of N-(1-benzyl-4-methylhexahydro-1H-1,4-diazepin-6-yl)-1-methoxycarbonyl-1H -indazole-3-carboxamide:
To a solution of N-(1-benzyl-4-methylhexahydro-1H-1,4-diazepin-6-yl)-1H-indazole-3-carboxamide (0.92 g) and triethylamine (0.77 g) in dichloromethane (30 ml), methyl chloroformate (0.48 g) is added dropwise at 0° C., and the mixture is stirred at 25° C. for 16 hours. The reaction mixture is washed with saturated sodium bicarbonate and dried over sodium sulfate. The solvent is evaporated under reduced pressure, and the residue is chromatographed on silica gel with elution of acetone. Fractions containing the title compound are pooled and evaporated under reduced pressure to give the title compound (0.7 g) as an oil. The free base thus obtained is converted to the fumarate of the title compound in a usual manner, m.p. 158-160° C. (recrystallized from ethanol).

reactant | N-(1-benzyl-4-methylhexahydro-1H-1,4-diazepin-6-yl)-1H-indazole-3-carboxamide | 0.92 g | C(C1=CC=CC=C1)N1CCN(CC(C1)NC(=O)C1=NNC2=CC=CC=C12)C | C21H25N5O
reactant | triethylamine | 0.77 g | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 0.48 g | ClC(=O)OC | C2H3ClO2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N-(1-benzyl-4-methylhexahydro-1H-1,4-diazepin-6-yl)-1-methoxycarbonyl-1H -indazole-3-carboxamide | 0.7 g | C(C1=CC=CC=C1)N1CCN(CC(C1)NC(=O)C1=NN(C2=CC=CC=C12)C(=O)OC)C | C23H27N5O3
